US06586423B2
2-{4-[4-(2-Hydroxy-ethanoyl)-piperazin-1-ylmethyl]-pyridin-2-ylamino}-thiazole-5-carbonitrile (10-8)
2-{[4-(Chloromethyl)pyridin-2-yl]amino}-1,3-thiazole-5-carbonitrile (180 mg, 0.72 mmole) and 1-glycoloylpiperazine hydrochloride (259 mg, 1.44 mmole) were combined in DMSO (2 mL). To this was added diisopropylethylamine (0.38 mL, 2.15 mmole) at RT. After 3 hr the mixture was diluted with H2O and extracted with EtOAc (3×g). The combined organic layers were dried (MgSO4), filtered, and concentrated. Flash column chromatography (gradient, 5-15% EtOH/EtOAc then 5-10% MeOH/CHCl3) gave the title compound as a pale yellow solid: 1H NMR (d6-DMSO) δ12.19 (s, 1H), 8.33 (d, 1H, J=5.1 Hz), 8.32 (s, 1H), 7.14 (s, 1H), 7.04 (d, 1H, J=5.2 Hz), 4.54 (t, 1H, J=5.6 Hz), 4.08 (d, 2H, J=5.6 Hz), 3.55 (s, 2H), 3.49 (s, 2H), 3.36 (s, 2H), 2.38 (s, 4H); MS [M+H]+=359.1285.

reactant | 2-{[4-(Chloromethyl)pyridin-2-yl]amino}-1,3-thiazole-5-carbonitrile | 0.72 mmole, 180 mg | ClCC1=CC(=NC=C1)NC=1SC(=CN1)C#N | C10H7ClN4S
reactant | 1-glycoloylpiperazine hydrochloride | 1.44 mmole, 259 mg | Cl.C(CO)(=O)N1CCNCC1
reactant | diisopropylethylamine | 2.15 mmole, 0.38 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
solvent | H2O | O | H2O
product | 2-{4-[4-(2-Hydroxy-ethanoyl)-piperazin-1-ylmethyl]-pyridin-2-ylamino}-thiazole-5-carbonitrile | OCC(=O)N1CCN(CC1)CC1=CC(=NC=C1)NC=1SC(=CN1)C#N | C16H18N6O2S
